US06784297B2
Preparation of Amlodipine Base
Phthaloyl amlodipine (100 g, 0.18 M) was reacted with monomethyl amine (500 g, 40% solution) in denatured spirit at room temperature for 8 hrs, cooled to 0° C., filtered, washed with distilled water up to neutral pH and dried at 60-65° C. for 8 ills. Yield 58 g.

reactant | Phthaloyl amlodipine | 0.18 M, 100 g | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN3C(=O)C4=CC=CC=C4C3=O | C28H27ClN2O7
reactant | monomethyl amine | 500 g | CN | CH5N
product | Amlodipine Base | CCOC(=O)C1=C(NC(=C(C1C2=CC=CC=C2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
